US06482841B1
B) 2,6-Dimethyl-4-(3-trifluoromethylphenyl) pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester
A mixture of 12 g (0.027 mol) of 2,6-dimethyl-4-(3-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester, obtained as described in A), and 98 g (0.082 mol) of pyridinium chlorochromate adsorbed on alumina, was suspended in 270 ml of CH2Cl2, and the suspension was maintained under stirring at room temperature for 6 hours. The remaining solid was eliminated by filtration, and the liquid was washed with water (3×300 ml), drive over anh. Na2SO4, and concentrated at reduced pressure, to dryness. The product was obtained as an oil, which was purified by column chromatography (Silicagel, n-hexane:EtAcO, 8:2) with a yield of 65%.

reactant | 2,6-dimethyl-4-(3-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | 0.027 mol, 12 g | O1C(CCC1)COC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)C(F)(F)F | C22H24F3NO5
reactant | pyridinium chlorochromate | 0.082 mol, 98 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 270 ml | C(Cl)Cl | CH2Cl2
product | 2,6-Dimethyl-4-(3-trifluoromethylphenyl) pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | yield of 65% | O1C(CCC1)COC(=O)C=1C(=C(C(=NC1C)C)C(=O)OC)C1=CC(=CC=C1)C(F)(F)F | C22H22F3NO5
